US07745641B2
In a similar manner to Step 3 of Example 16, 4-methoxymethoxy-5-methyl-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone (2.94 g, 8.61 mmol) was dissolved in THF (110 mL), and the solution was treated with TMEDA (4.20 mL, 27.8 mmol), sec-butyl lithium-hexane solution (0.95 mol/L, 29.0 mL, 27.6 mmol) and iodine (2.62 g, 10.3 mmol), followed by purification by flash column chromatography (hexane/ethyl acetate=4/1 to 7/3 to 6/4). The obtained solid was purified by slurry using hexane to obtain 4-methoxymethoxy-5-methyl-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (2.40 g, yield 60%).

reactant | 4-methoxymethoxy-5-methyl-3-hydroxy-2-(1-methyl-1-phenylethyl)isoindolinone | 8.61 mmol, 2.94 g | COCOC1=C2C(N(C(C2=CC=C1C)=O)C(C)(C1=CC=CC=C1)C)O | C20H23NO4
reactant | TMEDA | 27.8 mmol, 4.20 mL | CN(C)CCN(C)C | C6H16N2
reactant | iodine | 10.3 mmol, 2.62 g | II | I2
solvent | THF | 110 mL | C1CCOC1 | C4H8O
product | 4-methoxymethoxy-5-methyl-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 2.40 g, yield 60% | COCOC1=C2C(N(C(C2=C(C=C1C)I)=O)C(C)(C1=CC=CC=C1)C)O | C20H22INO4
